US08664220B2
Step 3: (3-Benzyl-phenyl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol
1-Benzyl-3-bromo-benzene (0.811 g, 3.3 mmol) was dissolved in THF (2 mL), cooled to −78° C. and then n-butyllithium (2.0 M in THF, 1.65 mL, 3.3 mmol) was added dropwise. The reaction was stirred for 15 minutes then warmed to 0° C. and 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (1.05 g, 3.96 mmol) was added. The reaction was allowed to warm to room temperature while stirring for 1 hour. The reaction was quenched with aqueous ammonium chloride then submitted to standard aqueous workup and silica gel chromatography to give the title compound.

reactant | 1-Benzyl-3-bromo-benzene | 3.3 mmol, 0.811 g | C(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C13H11Br
reactant | n-butyllithium | 3.3 mmol, 2.0 M, 1.65 mL | C(CCC)[Li]
reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 3.96 mmol, 1.05 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3-Benzyl-phenyl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)C=1C=C(C=CC1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C24H20BrNO2
